US05286752
N-[[2-(Phenylmethyl)phenyl]methyl]propanimidamide (I R1 =Bzl, R2 =R3 =R4 =H, n=2)
By a process substantially similar to that of Example 2, 2.82 g (7.5 mmol) of 4,5-dihydro-3-ethyl-1-phenyl-4-(phenylmethyl)-1H-2,4-benzodiazepine was converted to 1.1 g of product as the hydrochloride after recrystallization from isopropyl alcohol/ether, mp 172-174.

reactant | 4,5-dihydro-3-ethyl-1-phenyl-4-(phenylmethyl)-1H-2,4-benzodiazepine | 7.5 mmol, 2.82 g | C(C)C=1N(CC2=C(C(N1)C1=CC=CC=C1)C=CC=C2)CC2=CC=CC=C2 | C24H24N2
reactant | hydrochloride | Cl | ClH
product | N-[[2-(Phenylmethyl)phenyl]methyl]propanimidamide | C1(=CC=CC=C1)CC1=C(C=CC=C1)CNC(CC)=N | C17H20N2
